US04968677
P.5: Preparation of 1-(3,4-dimethoxyphenyl)-6-chloro-2-naphthoic acid (intermediate)
Dry carbon dioxide from -5° to 0° is introduced into a solution consisting of 20,0 g of 1-(3,4-dimethoxyphenyl)-6-chloro-2-bromomagnesium naphthalene in 110 ml of tetrahydrofurane, made from 18,8 g of 1-(3,4-dimethoxyphenyl)-6-chloro-2-bromonaphthalene and 1,2 of magnesium. The introduction of carbon dioxide is continued for one hour after the exothermic reaction is finished. While cooling, 30 ml of 10% hydrochloric acid and thereafter 200 ml of water are then added dropwise, and the acid reaction solution is rendered alkaline with concentrated sodium hydroxide solution and extracted twice with 150 ml of ether each time. The aqueous phase is adjusted to pH 1 with 20% hydrochloric acid. The acid which precipitates is filtered off, washed with a small amount of water and dried in a vacuum drying cabinet at 80°. M.p. of the beige title compound >200°.

reactant | carbon dioxide | C(=O)=O | CO2
reactant | 1-(3,4-dimethoxyphenyl)-6-chloro-2-bromonaphthalene | 18,8 g | COC=1C=C(C=CC1OC)C1=C(C=CC2=CC(=CC=C12)Cl)Br | C18H14BrClO2
reactant | magnesium | [Mg] | Mg
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofurane | 110 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 1-(3,4-dimethoxyphenyl)-6-chloro-2-naphthoic acid | COC=1C=C(C=CC1OC)C1=C(C=CC2=CC(=CC=C12)Cl)C(=O)O | C19H15ClO4
